US06087512
p-(2-Isopropoxyethoxy)methylphenol (5 g) was dissolved in DMF (30 ml) under nitrogen atmosphere and the solution was cooled to 0° C. Cesium fluoride (0.72 g) and potassium carbonate (4.27 g) were added thereto, and the mixture was stirred for 1 hour. Then (S)-glycidyl m-nitrobenzenesulfonate (6.16 g, 99.7% e.e.) was added thereto and the mixture was stirred for 24 hours at the same temperature. After the reaction, water was added to the filtrate, the solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, condensed and the residue was subjected to silica gel chromatography (hexane/ethyl acetate; 1:1) to give 6.08 g of (S)-1-(p-2-isopropoxyethoxymethylphenoxy)-2,3-epoxypropane (yield 96%, optical purity 99.6% e.e.) as a colorless oil.

reactant | p-(2-Isopropoxyethoxy)methylphenol | 5 g | C(C)(C)OCCOCC1=CC=C(C=C1)O | C12H18O3
reactant | Cesium fluoride | 0.72 g | [F-].[Cs+]
reactant | potassium carbonate | 4.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidyl m-nitrobenzenesulfonate | 6.16 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@H]1CO1 | C9H9NO6S
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-1-(p-2-isopropoxyethoxymethylphenoxy)-2,3-epoxypropane | 6.08 g, yield 96% | C(C)(C)OCCOCC1=CC=C(OC[C@@H]2CO2)C=C1 | C15H22O4
